US06825191B2
Step 1: Synthesis of 3-[4-(4-chlorobenzoyl)-2-oxo-1-(4-(cyano)benzyl)-2,3,4,5-tetrahydro-1H-benzo[e][1,4]diazepin-8-yl]propionic acid
1.02 g (2.4 mmol) of methyl 3-[3-amino-4-(((4-chlorobenzoyl)ethoxycarbonylmethylamino)methyl)phenyl]propionate and 371 mg (2.8 mmol) of 4-cyanobenzaldehyde were dissolved in 100 ml of dichloromethane. 0.27 ml (4.8 mmol) of acetic acid was added to the obtained solution, and they were stirred at room temperature for 30 minutes. 1300 mg (6.0 mmol) of sodium triacetoxyborohydride was added to the reaction mixture, and they were stirred at room temperature overnight. After the treatment with dichloromethane as the extracting solvent by an ordinary method, the obtained crude product was dissolved in a mixture of 10 ml of 1 N sodium hydroxide and 10 ml of ethanol, and the obtained solution was stirred at room temperature for 4 hours. After the treatment with ethyl acetate as the extracting solvent by an ordinary method, the obtained crude product was dissolved in 10 ml of dichloromethane. 470 mg (2.8 mmol) of 2-chloro-1,3-dimethylimidazonium chloride and 0.5 ml (3.6 mmol) of triethylamine were added to the obtained solution, and they were stirred overnight. The solvent was evaporated to obtain the title compound.

reactant | methyl 3-[3-amino-4-(((4-chlorobenzoyl)ethoxycarbonylmethylamino)methyl)phenyl]propionate | 2.4 mmol, 1.02 g | NC=1C=C(C=CC1CNCC(=O)OCCC(C1=CC=C(C=C1)Cl)=O)CCC(=O)OC | C22H25ClN2O5
reactant | 4-cyanobenzaldehyde | 2.8 mmol, 371 mg | C(#N)C1=CC=C(C=O)C=C1 | C8H5NO
reactant | acetic acid | 4.8 mmol, 0.27 ml | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 6.0 mmol, 1300 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | triethylamine | 3.6 mmol, 0.5 ml | C(C)N(CC)CC | C6H15N
reactant | dichloromethane | 100 ml | ClCCl | CH2Cl2
reactant | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | sodium hydroxide | 1 N, 10 ml | [OH-].[Na+]
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-[4-(4-chlorobenzoyl)-2-oxo-1-(4-(cyano)benzyl)-2,3,4,5-tetrahydro-1H-benzo[e][1,4]diazepin-8-yl]propionic acid | ClC1=CC=C(C(=O)N2CC(N(C3=C(C2)C=CC(=C3)CCC(=O)O)CC3=CC=C(C=C3)C#N)=O)C=C1 | C27H22ClN3O4
